US06586423B2
2-Amino-isonicotinic acid methyl ester (8-3)
2-Acetylamino-isonicotinic acid (3.10 g, 17.2 mmol) was stirred in 35 mL MeOH at 0° C. HCl (g) was bubbled through the solution for 10 min and then the reaction was heated to reflux. After 16 h the reaction was concentrated in vacuo. The residue was diluted with water and the pH was adjusted to 7 with Na2CO3 (s). A white precipitate formed which was filtered to afford a portion of pure desired product. The aqueous phase was extracted three time with 95:5 DCM/nBuOH. The organic phases were dried over Na2SO4, filtered and concentrated to afford more of the pure desired product as a white solid. 1H NMR (CDCl3) δ8.19 (d, 1H, J=5.3 Hz), 7.17 (dd, 1H, J=1.4, 5.3 Hz), 7.07 (d, 1H, J=1.3 Hz), 4.64 (bs, 2H), 3.92 (s, 3H). MS [M+H]+=153.0.

reactant | 2-Acetylamino-isonicotinic acid | 17.2 mmol, 3.10 g | C(C)(=O)NC=1C=C(C(=O)O)C=CN1 | C8H8N2O3
reactant | MeOH | 35 mL | CO | CH4O
product | 2-Amino-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)N)=O | C7H8N2O2
